US05773428
Formylation of 2-(benzyloxyaminomethyl)-4-methylpentanoic acid was carried out in dichloromethane with formic acid/acetic anhydride to give N-formyl-2-(benzyloxyaminomethyl)-4-methylpentanoic acid. Coupling with a compound of formula (J): To N-formyl-2-(benzyloxyaminomethyl)-4-methylpentanoic acid (175 mg) and (J) (230 mg) in 5% pyridine/dichloromethane (30 mL) was added 4-dimethylaminopyridine (DMPA) (200 mg) and 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide hydrochloride (EDCI) at room temperature. The reaction mixture was stirred for 8 h and then concentrated, partitioned between 30 mL of ethyl acetate and 30 mL of 20% HCl. The organic portion was washed with water (20 mL), 5% NaHCO3 (20 mL) and brine, dried over MgSO4 and concentrated. Purification on silica gel, eluting with 50% ethyl acetate/hexane gave the product as a mixture of two isomers. Hydrogenolysis in methanol over 10% Pd/C afforded (2RS, 10S)-2-[N-formyl, N-hydroxyaminomethyl]-4-methyl-(9-oxo-1,8-diazatricyclo[10.6.1.013,18 ]nonadeca-12(19)13(18),14,6-tetraen-10-yl]pentamide, as a mixture of 2 isomers, MS 455 (M-H)-, (Compound 6).

reactant | 2-(benzyloxyaminomethyl)-4-methylpentanoic acid | C(C1=CC=CC=C1)ONCC(C(=O)O)CC(C)C | C14H21NO3
reactant | formic acid acetic anhydride | C(=O)O.C(C)(=O)OC(C)=O
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-formyl-2-(benzyloxyaminomethyl)-4-methylpentanoic acid | C(=O)N(OCC1=CC=CC=C1)CC(C(=O)O)CC(C)C | C15H21NO4
